US04337198
(b) 3-(4-chloro-2-nitrophenylamino)-pyrazine-2-carboxylic acid methyl ester
A suspension of 2.6 g 3-(4-chlorophenylamino)-pyrazine-2-carboxylic acid methyl ester in 100 ml nitromethane is stirred and treated dropwise at 0° C. with 24 ml nitric acid (99%). Stirring is continued at 0° C. for further 45 minutes. The solution is poured on ice and extracted with methylene chloride. The organic phase is washed with saturated sodium bicarbonate solution, dried over sodium sulphate and evaporated to give the heading compound, m.p. 191°-192°.

reactant | 3-(4-chlorophenylamino)-pyrazine-2-carboxylic acid methyl ester | 2.6 g | COC(=O)C1=NC=CN=C1NC1=CC=C(C=C1)Cl | C12H10ClN3O2
reactant | nitric acid | 24 ml | [N+](=O)(O)[O-] | HNO3
solvent | nitromethane | 100 ml | [N+](=O)([O-])C | CH3NO2
product | 3-(4-chloro-2-nitrophenylamino)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CN=C1NC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C12H9ClN4O4
